US07629363B2
Step 1. Preparation of 3-chloro-4-hydroxy-6-methyl-1-[(5-methylpyrazin-2-yl)methyl]pyridin-2(1H)-one
To a solution of 4-hydroxy-6-methyl-1-[(5-methylpyrazin-2-yl)methyl]pyridin-2(1H)-one (1.00 g, 4.3 mmol) in glacial acetic acid (10 mL) was added NCS (0.79 g, 5.94 mmol). The reaction mixture stirred at 60° C. for 6 hours. The solvent was removed under reduced pressure and the resulting residue was triturated with ethyl acetate. The desired product was filtered and dried (0.80 g, 69%). 1H NMR (CD3OD, 400 MHz) δ 8.47 (s, 1H), 8.42 (s, 1H), 6.08 (s, 1H), 5.36 (s, 2H), 2.50 (s, 3H), 2.43 (s, 3H); ES-HRMS m/z 266.0691 (M+H calculated for C12H13N3O2Cl requires 266.0691).

reactant | 4-hydroxy-6-methyl-1-[(5-methylpyrazin-2-yl)methyl]pyridin-2(1H)-one | 4.3 mmol, 1.00 g | OC1=CC(N(C(=C1)C)CC1=NC=C(N=C1)C)=O | C12H13N3O2
reactant | NCS | 5.94 mmol, 0.79 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 3-chloro-4-hydroxy-6-methyl-1-[(5-methylpyrazin-2-yl)methyl]pyridin-2(1H)-one | ClC=1C(N(C(=CC1O)C)CC1=NC=C(N=C1)C)=O | C12H12ClN3O2
